US05753664
3,5-Dimethyl-2-[4-[4-(2-pyrrolidinoethoxy)benzoyl]benzylthio]-4(3H)-quinazolinone hydrochloride
A solution of 2-[4-(4-hydroxybenzoyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone (384 mg), 1-(2-chloroethyl)pyrrolidine hydrochloride (181 mg) and potassium carbonate (414 mg) in DMF (5 ml) was stirred at 60° C. for 62 hours. This reaction mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water, and dried. Then, hydrogen chloride/ethyl acetate was added and the precipitated hydrochloride was collected by filtration to provide the title compound as colorless solid (227 mg).

reactant | 2-[4-(4-hydroxybenzoyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone | 384 mg | OC1=CC=C(C(=O)C2=CC=C(CSC3=NC4=CC=CC(=C4C(N3C)=O)C)C=C2)C=C1 | C24H20N2O3S
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 181 mg | Cl.ClCCN1CCCC1
reactant | potassium carbonate | 414 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethyl-2-[4-[4-(2-pyrrolidinoethoxy)benzoyl]benzylthio]-4(3H)-quinazolinone hydrochloride | 227 mg | Cl.CN1C(=NC2=CC=CC(=C2C1=O)C)SCC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCCN1CCCC1)=O | InChI=1S/C30H31N3O3S.ClH/c1-21-6-5-7-26-27(21)29(35)32(2)30(31-26)37-20-22-8-10-23(11-9-22)28(34)24-12-14-25(15-13-24)36-19-18-33-16-3-4-17-33;/h5-15H,3-4,16-20H2,1-2H3;1H
